US04011230
As in Example 17, reaction of 4-acetoxy-β-nitrostyrene with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave 4-acetoxy-α-(nitromethyl)benzyl dimethyldithiocarbamate melting at 116° C.-118° C. after recrystallization without heating from acetone-methanol solution.

reactant | 4-acetoxy-β-nitrostyrene | C(C)(=O)OC1=CC=C(C=C[N+](=O)[O-])C=C1 | C10H9NO4
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | 4-acetoxy-α-(nitromethyl)benzyl dimethyldithiocarbamate | CN(C(SC(C1=CC=C(C=C1)OC(C)=O)C[N+](=O)[O-])=S)C | C13H16N2O4S2
